Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / Cardizem / Morphine / Vancomycin / 
Penicillins / Propofol Analogues / glucose gel / gabapentin / 
Nortriptyline / nystatin / adhesive / cardiac electrodes
 
Attending: ___
 
Chief Complaint:
admission for elective cervical laminectomy and fusion of  
c3-t1  

 
Major Surgical or Invasive Procedure:
- Total laminectomy C3-4, 5, 6, and 7; Laminotomy T1-2; Fusion 
C3-T1; Instrumentation C3-T1; Autograft (___)

 
History of Present Illness:
___ with a complicated medical history including CAD s/p CABG, 
DM, COPD, CKD, ?CHF, and spinal stenosis s/p recent cord 
decompression surgery on ___, who presents for posterior 
cervical fusion surgery ___. 

Of note, patient was recently discharged on ___ after 
admission with syncope, attributed to hypoglycemia. On that 
admission, also found to have borderline low blood pressures, 
and lisinopril was stopped. He was seen by his PCP ___ 
discharge for evaluation prior to planned surgery today.  

Pt presented today for elective cervical laminectomy and fusion 
of  c3-t1 today with ___. Given medical comorbidities, 
he is being admitted to medicine for post-operative monitoring. 
Estimated blood loss from procedure was 100cc.  

 
Past Medical History:
CAD  
- s/p MI ___ with PCI to LAD ___  
- s/p CABGx4 ___ (Lima-LAD, SVG-D1, SVG-OM, SVG-PDA), after  
pre-op cath before arthroplasty revealed 3VD  
Type 2 DM on insulin  
Hypertension  
Hyperlipidemia  
Obesity  
Trivial MR ___ on ___ ___ that was otherwise normal with  
EF>55%)  
Chronic peripheral edema  
Proteinuria and CKD (baseline Cr 1.4)  
Depression  
Glaucoma  
Tobacco use  
Peripheral neuropathy  
Right carpal tunnel syndrome s/p Right carpal tunnel release 
(___)

s/p lipoma excision from right forearm ___  
s/p removal of bone spurs from knees bilaterally  
s/p right hip arthroplasty ___  

Low back pain  
- s/p lumbar spinal fusion ___  
- s/p lumbar laminectomy ___  

Cervical spondylosis/stenosis
- s/p Anterior cervical diskectomy at C3-4, C4-5, C5-6; 
Osteotomy c4-5, c5-6; Fusion C3 to C6; Anterior instrumentation 
C3 to C6; Autograft and allograft (___)
 
Social History:
___
Family History:
Father: CAD  
Mother: Type 2 DM  

 
Physical Exam:
EXAM ON ADMISSION TO MEDICINE FLOOR:
=====================
Vitals: 98.2 (98.2)  110/90 (110-135/40-68)  91 (65-104)  18  
96% (96-100% RA)
General: Alert and oriented x 3  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, pinpoint 
pupils, bandage overlying cervical incision c/d/i with drain in 
place   
CV: distant heart sounds, Regular rate and rhythm, normal S1 + 
S2, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, in stockings
Neuro: CNII-XII intact, full strength in upper/lower extremities 
bilaterally, grossly normal sensation bilaterally, gait deferred 
(seated in chair).

EXAM ON DISCHARGE:
=====================
PHYSICAL EXAM:  
Vitals: 98.0 (98.7)  133/52 (133-143/52-76)  72 (72-83)  18  98% 
(98-100% RA)
General: Alert and oriented   
HEENT: Sclera anicteric, Wound site at neck with overlying 
bandage (blood seen underneath bandage, but none surrounding 
bandage on outside)  
CV: distant heart sounds, Regular rate and rhythm, normal S1 + 
S2, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pitting edema bilaterally
Neuro: full strength in upper/lower extremities bilaterally, 
grossly normal sensation bilaterally 
 
Pertinent Results:
LABS ON ADMISSION:
====================
___ 09:15AM BLOOD WBC-18.8* RBC-3.44* Hgb-9.7* Hct-29.6* 
MCV-86 MCH-28.1 MCHC-32.8 RDW-15.0 Plt Ct-UNABLE TO 
___ 07:30PM BLOOD Glucose-160* UreaN-82* Creat-1.8* Na-135 
K-3.5 Cl-98 HCO3-23 AnGap-18
___ 07:30PM BLOOD Calcium-9.1 Phos-6.0* Mg-2.0
___ 01:00PM BLOOD Glucose-164* Lactate-0.9 Na-135 K-2.7* 
Cl-106
___ 02:41PM BLOOD Glucose-175* Lactate-1.2 Na-132* K-3.1* 
Cl-100

PERTINENT LABS THROUGHOUT STAY:
================================
___ 03:33PM URINE Color-Yellow Appear-Hazy Sp ___
___ 03:33PM URINE Blood-LG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 03:33PM URINE RBC->182* WBC-48* Bacteri-FEW Yeast-NONE 
Epi-0
___ 03:33PM URINE CastHy-10*
___ 03:33PM URINE Mucous-FEW
___ 10:48AM URINE Color-Yellow Appear-Hazy Sp ___
___ 10:48AM URINE Blood-LG Nitrite-NEG Protein-TR 
Glucose-70 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 10:48AM URINE RBC->182* WBC-28* Bacteri-NONE Yeast-NONE 
Epi-1
___ 10:48AM URINE CastHy-1*
___ 10:48AM URINE Mucous-RARE
___ 10:48AM URINE Hours-RANDOM UreaN-478 Creat-44 Na-56 
K-28 Cl-56
___ 10:48AM URINE Osmolal-387

LABS ON DISCHARGE:
====================
___ 06:50AM BLOOD WBC-15.6* RBC-3.19* Hgb-9.1* Hct-27.7* 
MCV-87 MCH-28.6 MCHC-32.8 RDW-15.6* Plt Ct-UNABLE TO 
___ 06:50AM BLOOD Glucose-259* UreaN-79* Creat-1.8* Na-132* 
K-3.7 Cl-92* HCO3-28 AnGap-16
___ 06:50AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.2

MICROBIOLOGY:
====================
___ 3:33 pm URINE      Source: Catheter. 
   URINE CULTURE (Final ___:    NO GROWTH. 

STUDIES:
====================
CERVICAL SINGLE VIEW IN OR  Study Date of ___ 12:___, anterior plate and screws and fusion devices are seen 
at multiple levels. Surgical instrumentation is seen 
posteriorly. Onset of clamps overlies the spinous process of the 
C3 vertebral body. Another set of instruments overlies the 
posterior elements inferiorly near the cervio-thoracic junction. 
 Detail is obscured by overlying anatomy. Support wires and 
tubing are noted.  
On view 2, posterior screws are present at multiple levels. 
Additional instrumentation is seen posteriorly.   
On view 3, multiple posterior pedicle screws and instruments are 
noted.  

CHEST (PORTABLE AP) Study Date of ___ 4:41 ___ 
IMPRESSION:  
Pulmonary vasculature was engorged on ___.  The 
engorgement has improved, but there is mild interstitial edema 
in the lower lungs.  Heart size is normal.  Pleural effusion is 
minimal if any.  Patient has had median sternotomy, presumably 
for cardiac surgery. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
===========================
___ with Diabetes, hypertension, CAD, recently discharged on 
___ after admission with syncope, attributed to hypoglycemia 
who presented for elective cervical fusion for cervical spinal 
stenosis and spondylosis now s/p cervical laminectomy and fusion 
of C3-T1, admitted to the medicine service for post-operative 
monitoring in the setting of his chronic medical co-morbidities. 
Post-operative course was uncomplicated and as per physical 
therapy recommendations was discharged to rehab for continued 
___. He was provided w/ appropriate outpatient orthopedic f/u 
appts. 

ACUTE ISSUES:
====================
# S/P Cervical Laminectrony and fusion (___): 
Post-op, patient given 3 doses of IV clindamycin. Ortho 
recommended soft C-collar to be worn at all times when out of 
bed. SQH and ASA were restarted on ___, and patient was 
transitioned off IV Dilaudid PCA to standing tylenol + PRN 
oxycodone. However, needed methylnaltrexone to stool. Patient 
seen by Physical Therapy, who recommended rehab based on 
impaired ability to ambulate or transfer self.
___ recs for nursing include: encourage frequent position changes 
and ambulation with S for hospital setting, and Assist of 2 for 
out of bed to chair with RW 3x/day.
At rehab, patient is to have daily dressing changes overlying 
cervical spine incision. Pt will have staples removed at Ortho 
f/u appt. 

# Leukocytosis (downtrending): WBC 18.8 initially post-op 
(nothing collected on admission) -> 17.8 -> 15.6; last WBC prior 
to admission was 16.3 (___). WBC initially elevated ___ 
likely due to stress from surgery. Not on exogenous steroids. 
Urine culture from ___ negative. Prior records show most WBC 
counts between ___ circumstances unclear. 

# Microscopic hematuria: seen ___ AM (>182 RBCs). UA from 
___ showed no RBCs and no blood (so no known hematuria at 
baseline). Possibly due to Foley placement. Repeat urine from 
___ showed no gross hemauria, but UA still showed >182 RBCs. 
Please repeat UA as outpatient in 7d to determine whether 
microscopic hematuria has resolved.

# Hyponatremia: Na 134 -> 131 -> 132. Possibly due to SIADH from 
pain. Continue to trend as outpatient to ensure trending up. 

# Diabetes
Pt was recently discharge ~1 month ago after pre-syncope/AMS 
presumed to be due to hypoglycemic episode. Since PO intake at 
the time was low, home dose lantus and sliding scale was 
decreased. On this admission, pt's PO intake increased 
post-operatively, as did his insulin requirements. Accordingly, 
HISS was uptitrated. He will need continued blood glucose 
monitoring and likely uptitrating of his HISS.
  
#Anemia: Hct baseline ~34, Hct post-op 27.9 and has remained in 
___ range post-op. Likely ___ blood loss from OR. Please 
continue to trend Hct as outpatient.   

#Hypertension: patient was continued on furosemide, metolazone, 
and metoprolol. Metop succinate 400 mg qd was broken up into 
metop tartrate 100 mg q6h while in-house, but patient will 
resume metop succinate upon discharge. Of note, before this 
hospitalization, patient's PCP had recently stopped lisinopril 
before admission bc of recent hypotension; this was not 
continued.  
 
# CAD: s/p CABG in ___ with LIMA to the LAD, vein graft to D1, 
OM, PDA. Patient was continued on pravastatin, and ASA 325 was 
restarted ___ per Ortho recs.   

# CKD: CKD stage IV c/b renal osteodystrophy with a baseline 
creatinine of 2.1 to 2.3. Cr now 1.8-2.0 during hospitalization 
while being continued on metolazone and furosemide.  

# Hyperlipidemia: pravastatin continued. 

# Depression: patient continued on citalopram.  
 

TRANSITIONAL ISSUES:
======================
- Dressing overlying cervical wound needs to be changed on daily 
basis. Staples need to be removed at orthopedic f/u appt
- Please check sodium level on ___ to ensure hyponatremia has 
resolved
- Please check H/H on ___ to ensure is uptrending 
post-operatively (baseline Hct = 34)
- Please continue monitoring blood glucose, and consider 
uptitrating lantus and HISS as needed as PO intake normalizes
- Please repeat UA as outpatient in 7d to ensure microscopic 
hematuria has resolved.

# Code: DNR/DNI  
# Emergency Contact: ___ (wife, ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Pravastatin 80 mg PO QPM 
4. Nystatin Oral Suspension 5 mL PO QID 
5. alpha lipoic acid ___ mg oral Daily 
6. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
7. Furosemide 40 mg PO DAILY 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
9. Metolazone 5 mg PO 2X/WEEK (___) 
10. Metoprolol Succinate XL 400 mg PO DAILY 
11. Nystatin-Triamcinolone Cream 1 Appl TP BID 
12. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4-6HOURS PRN 
pain 
13. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
14. Zolpidem Tartrate ___ mg PO QHS:PRN Insomnia 
15. Lantus (insulin glargine) 42 units subcutaneous qpm 
16. HumaLOG KwikPen (insulin lispro) sliding scale  subcutaneous 
as directed 
17. Ferrous Sulfate 325 mg PO DAILY 
18. Docusate Sodium 200 mg PO DAILY 
19. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
3. Citalopram 20 mg PO DAILY 
4. Docusate Sodium 200 mg PO DAILY 
5. Furosemide 40 mg PO DAILY 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
7. Metolazone 5 mg PO 2X/WEEK (___) 
8. Pravastatin 80 mg PO QPM 
9. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
10. alpha lipoic acid ___ mg oral Daily 
11. Ferrous Sulfate 325 mg PO DAILY 
12. Metoprolol Succinate XL 400 mg PO DAILY 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. Zolpidem Tartrate ___ mg PO QHS:PRN Insomnia 
17. Acetaminophen 650 mg PO Q6H 
18. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
19. Glargine 42 Units Dinner
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: home dose

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Cervical spondylosis and stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were seen admitted to ___ for an elective neck surgery 
with Dr. ___. The procedure went well, and afterwards, you 
were transferred to the Medicine service for further observation 
and management. You were transitioned from IV to oral pain 
medications, and the drain from your neck was removed. You were 
seen by our physical therapists, who felt that given your 
impaired strength and activity tolerance, you would be ___ 
served being discharged to a rehab facility. 

It was our pleasure taking care of you, and we wish you all the 
___!

Sincerely,

Your ___ Team
 
Followup Instructions:
___